US06436929B1
6-(3,5-difluoro-phenyl)-4,4-dimethyl-1,4-dihydrobenzo-[d][1,3]oxazin-2-one was prepared, according to the procedure of Example 5 from (4,4-dimethyl-1,4-dihydro-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid and 1-bromo-3,5-difluorobenzene, as a white solid: mp 218-219° C.; 1H-NMR (DMSO-d6) δ10.4 (s, 1H), 7.67-7.65 (m, 2H), 7.49 (d, 2H, J=7.73 Hz), 7.19 (t, 1H, J=9.29 Hz), 6.96 (d 1H, J=8.88 Hz), 1.7 (s, 6H); MS (APCI) m/z 290 ([M+H]+, 100%); Anal. Calc. For C16H13F2NO2: C, 66.43; H, 4.53; N, 4.84. Found: C, 66.01; H, 4.46; N, 4.67.

reactant | (4,4-dimethyl-1,4-dihydro-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
reactant | 1-bromo-3,5-difluorobenzene | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
product | 6-(3,5-difluoro-phenyl)-4,4-dimethyl-1,4-dihydrobenzo-[d][1,3]oxazin-2-one | FC=1C=C(C=C(C1)F)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H13F2NO2
